US05631373
Preparation of 7-Bromo-5-ethyl-1,4-dihydroquinoxaline-2,3-dione
A mixture of 1,2-diamino-4-bromo-6-ethylbenzene (40 mg, 0.14 mmol) and oxalic acid dihydrate (25 mg, 0.20 mmol, used as received) in 4N HCl (1.5 mL) was refluxed at 120°-5° C. for 3 h, then cooled to room temperature. The mixture was centrifuged and the liquid layer was removed. The yellow solid was washed with cold water (2×1 mL), collected by filtration, and dried at 60° C. under reduced pressure for 2 h, affording 40 mg of crude product (80%) as a yellow powder. The crude product was dissolved in 1N NaOH (2 mL) and filtered. The filtrate was acidified to pH=5, affording 12 mg of pure title compound; mp: >350° C. (dec. from 300° C.); IR (KBr, cm-1): 3410, 3164, 2919, 1740, 1705, 1600. 1H NMR (DMSO-d6): δ1.099 (t, 3H, J=6 Hz), 2.741 (q, 2H, J=7.2 Hz), 7.117 (d, 1H, J=1.8 Hz), 7,138 (d, 1H, J=1.8 Hz); 11.343 (s, 1H); 11.958 (s, 1H). HRMS: calcd for C10H9BrN2O2 (M+) m/z: 267.9846; found 267.9853.

reactant | 1,2-diamino-4-bromo-6-ethylbenzene | 0.14 mmol, 40 mg | NC1=C(C=C(C=C1CC)Br)N | C8H11BrN2
reactant | oxalic acid dihydrate | 0.20 mmol, 25 mg | O.O.C(C(=O)O)(=O)O
solvent | HCl | 4N, 1.5 mL | Cl | ClH
solvent | NaOH | 1N, 2 mL | [OH-].[Na+]
product | 7-Bromo-5-ethyl-1,4-dihydroquinoxaline-2,3-dione | 12 mg | BrC1=CC(=C2NC(C(NC2=C1)=O)=O)CC | C10H9BrN2O2
